US06500822B2
To a stirred and ice-cooled solution of 3-aminopropionaldehyde diethylacetal (5.88 g, 40 mmole) in diethyl ether (35 mL) was added dropwise 3-chloropropyl isocyanate (4.78 g, 40 mmole). The reaction mixture was stirred at room temperature for 4 hours. The mixture was concentrated and dissolved in N,N-dimethylformamide (40 mL). To this solution was added de-oiled sodium hydride (0.96 g, 40 mmole). The reaction mixture was stirred at 70° C. for 18 hours, concentrated, taken up in diethyl ether (40 mL), and filtered. The filtrate was concentrated and purified by silica gel chromatography, eluting with hexane-ethyl acetate-methanol (10:9.7:0.3), gave 1-(3,3-diethoxypropyl)-tetrahydropyrimidin-2-one (9.05 g) as an oil.

reactant | 3-aminopropionaldehyde diethylacetal | 40 mmole, 5.88 g | C(C)OC(CCN)OCC | C7H17NO2
reactant | 3-chloropropyl isocyanate | 40 mmole, 4.78 g | ClCCCN=C=O | C4H6ClNO
reactant | sodium hydride | 40 mmole, 0.96 g | [H-].[Na+]
solvent | diethyl ether | 35 mL | C(C)OCC | C4H10O
product | 1-(3,3-diethoxypropyl)-tetrahydropyrimidin-2-one | 9.05 g | C(C)OC(CCN1C(NCCC1)=O)OCC | C11H22N2O3
